US09328124B2
N-[5-(5-Fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-1-carbothioyl]benzamide
Benzoyl isothiocyanate (511 μL 3.79 mmol) is added drop wise to a stirred solution of 5-(5-fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole (640 mg, 2.23 mmol) in tetrahydrofuran (20 mL) at 0° C. The resulting mixture is stirred at 0° C. for 1 hour and is warmed to room temperature over 1 hour. The solvent is evaporated under vacuum and the resulting residue is purified by silica gel chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title compound (1.1 g, quantitative). ES/MS (m/e): 451 (M+1).

reactant | Benzoyl isothiocyanate | 3.79 mmol, 511 μL | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
reactant | 5-(5-fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydro-1H-pyrrolo[3,4-c]isoxazole | 2.23 mmol, 640 mg | FC=1C=NC(=NC1)N1CC2(NOCC2C1)C=1C=NC=CC1 | C14H14FN5O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | N-[5-(5-Fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-1-carbothioyl]benzamide | 1.1 g | FC=1C=NC(=NC1)N1CC2(N(OCC2C1)C(=S)NC(C1=CC=CC=C1)=O)C=1C=NC=CC1 | C22H19FN6O2S
